US07994163B2
4,5,6,7-Tetrahydro-1H-benzoimidazole-2-thiol:
Dissolve 2-amino-cyclohexanone hydrochloride (2.2 g, 14.7 mmol) and potassium thiocyanate (1.4 g, 14.7 mmol) in water (10 mL). Stir the solution at 100° C. in a sealed flask for 16 h. Cool the mixture and store the mixture at 4° C. for 16 h. Filter off the resulting solid and wash with water (20 mL). Collect the solid, slurry in diethyl ether (20 mL) and filter. Dry the solid in a vacuum oven at 50° C. for 2 h to obtain the title compound as a tan solid (1.4 g, 62%). MS (ES+) m/z: 155.1 (M+H)+.

reactant | 2-amino-cyclohexanone hydrochloride | 14.7 mmol, 2.2 g | Cl.NC1C(CCCC1)=O
reactant | potassium thiocyanate | 14.7 mmol, 1.4 g | [S-]C#N.[K+]
solvent | water | 10 mL | O | H2O
product | 4,5,6,7-Tetrahydro-1H-benzoimidazole-2-thiol | 1.4 g, 62% | N1C(=NC2=C1CCCC2)S | C7H10N2S
